US05716972
Ethyl 4-hydroxyphenylglycine, hydrochloride.
To a suspension of 4-hydroxyphenylglycine (18.00 g, 0.11 mol) in EtOH (100 mL) was added 20% ethanolic HCl (30 mL). The mixture was heated at reflux for 14 h, then was allowed to cool and was concentrated under reduced pressure. The residue was partitioned between saturated aqueous NaHCO3 and EtOAc, and the organic extract was concentrated in vacuo to afford the tide compound (15.00 g, 70%).

reactant | 4-hydroxyphenylglycine | 0.11 mol, 18.00 g | OC1=CC=C(C=C1)NCC(=O)O | C8H9NO3
reactant | HCl | 30 mL | Cl | ClH
reactant | EtOH | 100 mL | CCO | C2H6O
product | Ethyl 4-hydroxyphenylglycine, hydrochloride | 15.00 g, 70% | Cl.C(C)N(CC(=O)O)C1=CC=C(C=C1)O | InChI=1S/C10H13NO3.ClH/c1-2-11(7-10(13)14)8-3-5-9(12)6-4-8;/h3-6,12H,2,7H2,1H3,(H,13,14);1H
